US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)acetamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(methylamino)acetamido)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid, example 139, (10 mg, 0.016 mmol) and formaldehyde (0.488 mg, 0.016 mmol) in MeOH (1 ml) was added acetic acid (1.860 mL, 0.033 mmol) and sodium cyanoborohydride (1.022 mg, 0.016 mmol). A clear solution was formed soon after mixing. The mixture was stirred at rt for 2 h, LC/MS showed the mass of the expected product. The mixture was diluted with 7 ml of sat. NaHCO3 and was extracted with dichloromethane (3×7 ml). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to afford the title compound as a white solid (2 mg, 18.6%). LCMS: m/e 629.4 (MH+), 2.72 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.90 (d, J=8.6 Hz, 2H), 7.20 (d, J=8.3 Hz, 2H), 5.19-5.42 (m, 1H), 4.72 (d, J=1.8 Hz, 1H), 4.59 (s, 1H), 3.93 (s, 2H), 3.58 (br. s., 1H), 3.04-3.17 (m, 1H), 2.89 (s, 6H), 2.46-2.60 (m, 1H), 2.10-2.18 (m, 2H), 1.80 (br. s., 2H), 1.65-1.77 (m, 7H), 1.63 (s, 1H), 1.58 (br. s., 2H), 1.38-1.55 (m, 4H), 1.19-1.34 (m, 4H), 1.13-1.19 (m, 4H), 1.06-1.13 (m, 2H), 1.04 (s, 3H), 1.02 (s, 3H), 0.95 (s, 3H), 0.93 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(methylamino)acetamido)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC3)C(=C)C)CNC(CNC)=O | C40H58N2O3
reactant | formaldehyde | 0.016 mmol, 0.488 mg | C=O | CH2O
reactant | acetic acid | 0.033 mmol, 1.860 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.016 mmol, 1.022 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 1 ml | CO | CH4O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)acetamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | CN(CC(=O)NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)C | C41H60N2O3
